US07202381B2
A. {1-(4-carbamoyl-2,6-dimethyl-benzyl)-2-oxo-2-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethyl}-carbamic acid tert-butyl ester
To a mixture of 220 mg (0.8 mmol) of 3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro-isoquinoline, 269 mg (0.8 mmol) of 2-tert-butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid, 216 mg (1.6 mmol) of of hydroxybenzotriazole hydrate and 184 mg (0.96 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride was added 3 mL of dimethylformamide. The resulting mixture was allowed to stir overnight at room temperature under argon. The mixture was then partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate and concentrated. The product {1-(4-carbamoyl-2,6-dimethyl-benzyl)-2-oxo-2-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethyl}-carbamic acid tert-butyl ester was taken to the next step without further purification.

reactant | 3-(4-phenyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydro-isoquinoline | 0.8 mmol, 220 mg | C1(=CC=CC=C1)C=1N=C(NC1)C1NCC2=CC=CC=C2C1 | C18H17N3
reactant | 2-tert-butoxycarbonylamino-3-(4-carbamoyl-2,6-dimethyl-phenyl)-propionic acid | 0.8 mmol, 269 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=C(C=C(C=C1C)C(N)=O)C | C17H24N2O5
reactant | hydroxybenzotriazole hydrate | O.OC1=CC=CC=2NN=NC21
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.96 mmol, 184 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | {1-(4-carbamoyl-2,6-dimethyl-benzyl)-2-oxo-2-[3-(4-phenyl-1H-imidazol-2-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(N1CC2=CC=CC=C2CC1C=1NC=C(N1)C1=CC=CC=C1)=O)CC1=C(C=C(C=C1C)C(N)=O)C)=O | C35H39N5O4
